US06667344B2
Preparation of Formoterol Inhalation Solution Formulation
To a 5 L stainless steel vessel were added 0.68 g citric acid USP, 1.99 g sodium citrate USP, and 17.5 g sodium chloride USP. Purified water USP (2 L) was added to the stainless steel vessel and the contents were mixed with an overhead stirrer at a speed of 240 rpm for 10 minutes. Formoterol fumarate dihydrate (0.17 g for low dosage strength formulation, 0.34 g for high dosage strength formulation) was added and the solution was stirred at 240 rpm for 90 minutes.

reactant | citric acid | 0.68 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | sodium citrate | 1.99 g | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+]
reactant | sodium chloride | 17.5 g | [Cl-].[Na+]
reactant | Formoterol fumarate dihydrate | 0.17 g | CC(CC=1C=CC(=CC1)OC)NCC(C=2C=CC(=C(C2)NC=O)O)O.C(=C/C(=O)O)\C(=O)O.O.O
solvent | water | O | H2O
product | Formoterol | CC(CC=1C=CC(=CC1)OC)NCC(C=2C=CC(=C(C2)NC=O)O)O | C19H24N2O4
